US04851519
A mixture of 0.4 g of 1-(2-deoxy-2-fluoro-β-D-arabinofuranosyl)-5-ethyluracil, 0.44 g of triphenylphosphine, 0.48 g of sodium azide and 6 ml of dry dimethylformamide was stirred at room temperature under nitrogen while 0.48 g of carbon tetrabromide was added portionwise. The mixture was stirred at room temperature under nitrogen for 20 hours. 3 ml of methanol were added, the mixture was stirred for 0.5 hour and then evaporated. The residue was stirred for 0.5 hour with 8 ml of 0.5M sodium hydroxide solution. The resulting suspension was filtered and the insoluble triphenylphosphine oxide was washed with water. The filtrate was acidified to pH 5 by the addition of hydrochloric acid and then extracted three times with 20 ml of ethyl acetate. The extracts were dried over magnesium sulfate, filtered and evaporated. The residual solid was washed on to a filter with 10 ml of diethyl ether/petroleum ether (1:1) and then dried in vacuo to give 0.4 g of 1 -(5-azido-2,5-dideoxy-2-fluoro-β-D-arabinofuranosyl)-5-ethyluracil as a white solid of melting point 185°-188° C.

reactant | 1-(2-deoxy-2-fluoro-β-D-arabinofuranosyl)-5-ethyluracil | 0.4 g | F[C@@H]1[C@@H](O[C@@H]([C@H]1O)CO)N1C(=O)NC(=O)C(=C1)CC | C11H15FN2O5
reactant | triphenylphosphine | 0.44 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | sodium azide | 0.48 g | [N-]=[N+]=[N-].[Na+]
reactant | carbon tetrabromide | 0.48 g | C(Br)(Br)(Br)Br | CBr4
solvent | methanol | 3 ml | CO | CH4O
solvent | dimethylformamide | 6 ml | CN(C=O)C | C3H7NO
product | 1 -(5-azido-2,5-dideoxy-2-fluoro-β-D-arabinofuranosyl)-5-ethyluracil | 0.4 g | N(=[N+]=[N-])C[C@@H]1[C@H]([C@@H]([C@@H](O1)N1C(=O)NC(=O)C(=C1)CC)F)O | C11H14FN5O4
